US07750145B2
A suspension of methyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxabororan-2-yl)benzoate (1.0 g), 1-benzyloxy-3-iodobenzene (1.18 g), tetrakis(triphenylphosphine)palladium(0) (0.22 g) and potassium carbonate (1.58 g) in toluene (10 mL) was stirred at 100° C. under an argon atmosphere overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with ethylacetate. The extract was washed with water and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=9/1-4/1) to give methyl 4-[3-(benzyloxy)phenyl]benzoate (1.2 g).

reactant | 1-benzyloxy-3-iodobenzene | 1.18 g | C(C1=CC=CC=C1)OC1=CC(=CC=C1)I | C13H11IO
reactant | potassium carbonate | 1.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.22 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4-[3-(benzyloxy)phenyl]benzoate | 1.2 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=CC=C(C(=O)OC)C=C1 | C21H18O3
